US07994185B2
Step B: N-{3-[5-(2-Chloro-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
To N-{3-[2-amino-5-(2-chloro-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzene sulfonamide (0.8 g, 1.67 mmol) in 10 mL THF was added t-butylnitrite (0.4 mL, 4 mmol) by syringe. The mixture stirred at rt for 1 h. More t-butylnitrite (0.2 mL, 2 mmol) was added and the mixture heated to 80° C. for 1 h. The mixture was cooled, diluted with 100 mL EtOAc, washed with 20 mL water, filtered through Whatman 1 PS (phase separating) paper and concentrated under vacuum. The crude product was then purified by flash chromatography to give the title compound of Step B (0.53 g, 1.14 mmol, 65% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.07 (s, 1H), 9.37 (s, 1H), 8.55 (d, J=5.3 Hz, 1H), 7.65-7.75 (m, 1H), 7.40 (t, J=8.0 Hz, 1H), 7.23-7.32 (m, 5H), 7.03 (d, J=5.3 Hz, 1H).

reactant | N-{3-[2-amino-5-(2-chloro-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzene sulfonamide | 1.67 mmol, 0.8 g | NC=1SC(=C(N1)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)C1=NC(=NC=C1)Cl | C19H12ClF2N5O2S2
reactant | t-butylnitrite | 4 mmol, 0.4 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | t-butylnitrite | 2 mmol, 0.2 mL | C(C)(C)(C)ON=O | C4H9NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 1.14 mmol, 0.53 g, 65% yield | ClC1=NC=CC(=N1)C1=C(N=CS1)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C19H11ClF2N4O2S2
